.SUBCKT mos_w1000_l150_m1_nf1_id1 d g s b

  X0 d g s b sky130_fd_pr__pfet_01v8 l=0.150 nf=1 w=1.000


.ENDS mos_w1000_l150_m1_nf1_id1


.SUBCKT mos_w600_l150_m1_nf1_id0 d g s b

  X0 d g s b sky130_fd_pr__nfet_01v8 l=0.150 nf=1 w=0.600


.ENDS mos_w600_l150_m1_nf1_id0


.SUBCKT folded_inv_9 vdd vss a y

  XMP0 y a vdd vdd mos_w1000_l150_m1_nf1_id1
  XMN0 y a vss vss mos_w600_l150_m1_nf1_id0
  XMP1 y a vdd vdd mos_w1000_l150_m1_nf1_id1
  XMN1 y a vss vss mos_w600_l150_m1_nf1_id0

.ENDS folded_inv_9

